US07365193B2
2-(1-Azabicyclo[2.2.2]oct-3-ylamino)-fluoren-9-one
A suspension of 2-aminofluoren-9-one (400 mg, 2.05 mmol; Aldrich) and anhydrous sodium sulfate (3.0 g, 21 mmol; EM Science) in acetic acid (10 mL) was stirred for 15 min and then treated with sodium triacetoxyborohydride (1.3 g, 6.13 mmol; Aldrich). After stirring overnight, the reaction mixture was basified with saturated aqueous Na2CO3 and extracted with EtOAc (3×). The combined organic phases were concentrated under vacuum and purified by flash chromatography (80 g silica gel, 1-16% gradient of NH4OH-MeOH (1:10) in CH2Cl2) to afford the title compound (492 mg, 1.62 mmol; 79% yield): 1H NMR (300 MHz, CD3OD) δ ppm 7.35-7.47 (m, 3H), 7.33 (d, J=8 Hz, 1H), 7.11 (td, J=7, 2 Hz, 1H), 6.86 (d, J=2 Hz, 1H), 6.70 (dd, J=8, 2 Hz, 1H), 3.57-3.67 (m, 1H), 3.32-3.40 (m, 1H), 2.74-3.00 (m, 4H), 2.60 (ddd, J=14, 5, 1 Hz, 1H), 1.67-2.06 (m, 4H), 1.41-1.55 (m, 1H); MS (DCl/NH3) m/z 305 (M+H)+.

reactant | 2-aminofluoren-9-one | 2.05 mmol, 400 mg | NC1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C13H9NO
reactant | sodium sulfate | 21 mmol, 3.0 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 6.13 mmol, 1.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-(1-Azabicyclo[2.2.2]oct-3-ylamino)-fluoren-9-one | 1.62 mmol, 492 mg, 79% yield | N12CC(C(CC1)CC2)NC2=CC=1C(C3=CC=CC=C3C1C=C2)=O | C20H20N2O
